US05455253
4-(3-Methoxyphenyl)-2-methyl-4,6,7,8-tetrahydro-5(1H)-quinolone.
A solution of 1-(3-methoxyphenyl)but-1-en-3-one (2.07 g), 1,3-cyclohexanedione (1.37 g) and ammonium acetate (1.39 g) in ethanol (20 mL) was stirred at reflux for 10 hours. The reaction was worked up as described in Example 8 and purified by chromatography (10% v/v ethyl ether in methylene chloride) to yield the title compound (1.14 g) as an off-white solid. Recrystallization from ethanol/hexane gave analytically pure material, mp 164°-167° C.; NMR: 1.71 (s,3, CH3), 1.82-1.88 (m,2, CH2), 2.13-2.17 (m,2, CH2), 2.40-2.44 (m,2, CH2), 3.67 (s,3, CH3), 4.35 (d,1, J=4.8, CH), 4.60 (d,1, J=4.6, CH), 6.64-6.66 (m,2, Ar), 6.71 (d,1, J=7.7, Ar), 7.12 (dd,1, J=7.7, 3.8, Ar), 8.41 (s,1, NH); (CI, CH4)MS: m/z=270(M+1). Analysis for C17H19NO2.0.5H2O: Calculated C, 73.36; H, 7.24; N, 5.03. Found: C, 73.49; H, 6.98; N, 4.93.

reactant | 1-(3-methoxyphenyl)but-1-en-3-one | 2.07 g | COC=1C=C(C=CC1)C=CC(C)=O | C11H12O2
reactant | 1,3-cyclohexanedione | 1.37 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | ammonium acetate | 1.39 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-(3-Methoxyphenyl)-2-methyl-4,6,7,8-tetrahydro-5(1H)-quinolone | 1.14 g | COC=1C=C(C=CC1)C1C=C(NC=2CCCC(C12)=O)C | C17H19NO2
